US06187777B1
7-Methyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride.
Using the method described in Example 30 by employing (1-phenylbut-1-enyl)pyrrolidine (freshly prepared before use) (2.10 g, 11.3 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (2.18 g, 11.3 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.0 mL, 11.3 mmol), piperidine (1.8 mL, 18.1 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (Aldrich Chemical Company) (34 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 407 mg (12%) of the product as a faint yellow colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.64 (br s, 6), 2.30 (s, 3), 3.72 (br s, 4), 7.44 (t, 1, J=7.3), 7.53 (t, 2, J=7.53), 7.66 (d, 2, J=7.3), 8.29 (s, 1), 10.95 (s, 1). MS m/z: 293 (M+1). To a solution of 7-methyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine (0.22 g, 0.76 mmol) in 5:1 EtOAc: MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (760 mL, 0.73 mmol). The precipitate was collected by filtration, washed with ether (3×15 mL) and dried under vacuum to give 224 mg (90%) of the title compound as a white colored solid. Mp: 281-282.5° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.71 (br s, 6), 2.32 (s, 3), 4.04 (br s, 4), 7.52-7.61 (m, 3), 7.68 (d, 2, J=7.1), 8.56 (s, 1), 12.05 (s, 1), 14.67 (s, 1). MS m/z: 293 (M+1). Anal. Calcd. for C24H24N4.HCl: C, 65.74; H, 6.44; N, 17.04; Cl, 10.78. Found C, 65.64; H, 6.51; N, 17.04; Cl, 10.71.

reactant | 7-methyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 0.76 mmol, 0.22 g | CC=1C=NC=2C1NC(=NC2)C2CCNC(C2)C2=CC=CC=C2 | C18H20N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.73 mmol, 1M, 760 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 7-Methyl-6-phenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride | 224 mg, 90% | Cl.CC=1C=NC=2C1NC(=NC2)C2CCNC(C2)C2=CC=CC=C2 | InChI=1S/C18H20N4.ClH/c1-12-10-20-16-11-21-18(22-17(12)16)14-7-8-19-15(9-14)13-5-3-2-4-6-13;/h2-6,10-11,14-15,19H,7-9H2,1H3,(H,21,22);1H
